USH0001596
1-(2--chloro-4-methylthiophenyl)-2-cyano-3-cyclopropylpropan-1,3-dione;
1-(2--chloro-3-methoxy-4-methylsulfonylphenyl)-2-cyano-3-cyclopropylpropan-1,3-dione; 2-cyano-3-cyclopropyl-1-(2-bromo-3-methoxy-4-methylsulfinylphenyl)-propan-1,3-dione; 2-cyano-1-(4-cyanophenyl)-3-cyclopropylpropan-1,3-dione; 1-(4-choloro-2-N-methylsulfonyl-N-methylaminophenyl)-2-cyano-3-cyclopropyl-1,3-dione; 2-cyano-3-cyclopropyl-1-(2-n-propylthio-4-trifluoromethylphenyl)-propan-1,3-dione; 2-cyano-3-cyclopropyl-1-(2,3,4-trichlorophenyl)-propan-1,3-dione; 2-cyano-3-cyclopropyl-1-[3,4-dichloro-2-(1,1,2,2,-tetrafluoroethylthio)phenyl]-propan-1,3-dione; 2-cyano-3-cyclopropyl-1-[3,4-dichloro-2-(2-fluoroehtylthio )phenyl]-propan-1,3-dione; 2-cyano-3-cyclopropyl-1-[2-trifluoromethyl-4-methylthiophenyl]-propan-1,3-dione;

reactant | 1-(2--chloro-3-methoxy-4-methylsulfonylphenyl)-2-cyano-3-cyclopropylpropan-1,3-dione | ClC1=C(C=CC(=C1OC)S(=O)(=O)C)C(C(C(=O)C1CC1)C#N)=O | C15H14ClNO5S
reactant | 2-cyano-3-cyclopropyl-1-(2-bromo-3-methoxy-4-methylsulfinylphenyl)-propan-1,3-dione | C(#N)C(C(=O)C1=C(C(=C(C=C1)S(=O)C)OC)Br)C(=O)C1CC1 | C15H14BrNO4S
reactant | 2-cyano-1-(4-cyanophenyl)-3-cyclopropylpropan-1,3-dione | C(#N)C(C(=O)C1=CC=C(C=C1)C#N)C(=O)C1CC1 | C14H10N2O2
reactant | 2-cyano-3-cyclopropyl-1-(2-n-propylthio-4-trifluoromethylphenyl)-propan-1,3-dione | C(#N)C(C(=O)C1=C(C=C(C=C1)C(F)(F)F)SCCC)C(=O)C1CC1 | C17H16F3NO2S
reactant | 2-cyano-3-cyclopropyl-1-(2,3,4-trichlorophenyl)-propan-1,3-dione | C(#N)C(C(=O)C1=C(C(=C(C=C1)Cl)Cl)Cl)C(=O)C1CC1 | C13H8Cl3NO2
reactant | 2-cyano-3-cyclopropyl-1-[3,4-dichloro-2-(1,1,2,2,-tetrafluoroethylthio)phenyl]-propan-1,3-dione | C(#N)C(C(=O)C1=C(C(=C(C=C1)Cl)Cl)SC(C(F)F)(F)F)C(=O)C1CC1 | C15H9Cl2F4NO2S
reactant | 2-cyano-3-cyclopropyl-1-[3,4-dichloro-2-(2-fluoroehtylthio )phenyl]-propan-1,3-dione | C(#N)C(C(=O)C1=C(C(=C(C=C1)Cl)Cl)SCCF)C(=O)C1CC1 | C15H12Cl2FNO2S
reactant | 2-cyano-3-cyclopropyl-1-[2-trifluoromethyl-4-methylthiophenyl]-propan-1,3-dione | C(#N)C(C(=O)C1=C(C=C(C=C1)SC)C(F)(F)F)C(=O)C1CC1 | C15H12F3NO2S
product | 1-(2--chloro-4-methylthiophenyl)-2-cyano-3-cyclopropylpropan-1,3-dione | ClC1=C(C=CC(=C1)SC)C(C(C(=O)C1CC1)C#N)=O | C14H12ClNO2S
